US06992100B2
3. Preparation of 11-Methoxy-5H-benzo[b]carbazole-1-carboxylic acid, methyl ester
A solution of 2-(1-methoxynaphthalen-2-yl)-3-nitrobenzoic acid, methyl ester, (1.52 g, 4.5 mM) in triphenyl phosphite (7.19 g, 6.1 mL, 22.5 mM) was heated at 160° C. for 19 h under a nitrogen atmosphere. The mixture was cooled to room temperature and dried azeotropically in vacuo with toluene, then purified by column chromatography on silica gel (elution with gradient hexane/ethyl acetate) to afford 0.37 g (27%) of the title compound 11-methoxy-5H-benzo[b]carbazole-1-carboxylic acid, methyl ester as a yellow solid (MP 190–196° C., MW 305.34).

reactant | 2-(1-methoxynaphthalen-2-yl)-3-nitrobenzoic acid, methyl ester | 4.5 mM, 1.52 g | COC1=C(C=CC2=CC=CC=C12)C1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C19H15NO5
solvent | triphenyl phosphite | 22.5 mM, 6.1 mL, 7.19 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
product | 11-Methoxy-5H-benzo[b]carbazole-1-carboxylic acid, methyl ester | 0.37 g, 27% | COC1=C2C(=CC=3NC=4C=CC=C(C4C13)C(=O)OC)C=CC=C2 | C19H15NO3
